US07951949B2
To a solution of {2-allyl-6-[methyl(methylsulfonyl)amino]pyridine-4-yl}methyl 3-allyl-N-(tert-butoxycarbonyl)-α-methylphenylalaninate (80 mg, 0.14 mmol) in degassed DCE (2.9 mL) was added Zhan (metathesis) Catalyst I (9.2 mg, 0.014 mmol). The reaction was heated to 120° C. in a microwave for 0.5 h. Concentration and flash, chromatography (silica gel, 0-50% EtOAc/hexanes) gave tert-butyl [(3EZ)-14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),3,6(21),7,9,16,18-heptaen-14-yl]carbamate. MS: 530.4 (M+1) ES+

reactant | {2-allyl-6-[methyl(methylsulfonyl)amino]pyridine-4-yl}methyl 3-allyl-N-(tert-butoxycarbonyl)-α-methylphenylalaninate | 0.14 mmol, 80 mg | C(C=C)C=1C=C(C[C@](NC(=O)OC(C)(C)C)(C(=O)OCC2=CC(=NC(=C2)N(S(=O)(=O)C)C)CC=C)C)C=CC1 | C29H39N3O6S
solvent | DCE | 2.9 mL | ClCCCl | C2H4Cl2
product | tert-butyl [(3EZ)-14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),3,6(21),7,9,16,18-heptaen-14-yl]carbamate | CC1(C(OCC2=CC(=NC(CC=CCC=3C=CC=C(C1)C3)=C2)N(S(=O)(=O)C)C)=O)NC(OC(C)(C)C)=O | C27H35N3O6S
